US07776869B2
3-Bromo-4-chloro-N-(2-fluoro-3-(trifluoromethyl)phenyl)benzamide was synthesized from 2-fluoro-3-(trifluromethyl)aniline and 3-bromo-4-chlorobenzoyl chloride according to the procedure described in Example 183. 3-Bromo-4-chloro-N-(2-fluoro-3-(trifluoromethyl)phenyl)benzamide was obtained as a red-orange solid. MS (M−H+) 393.9; Calc'd for C14H7BrClF4NO: 395.

reactant | 2-fluoro-3-(trifluromethyl)aniline | FC1=C(N)C=CC=C1C(F)(F)F | C7H5F4N
reactant | 3-bromo-4-chlorobenzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1Cl | C7H3BrCl2O
product | 3-Bromo-4-chloro-N-(2-fluoro-3-(trifluoromethyl)phenyl)benzamide | BrC=1C=C(C(=O)NC2=C(C(=CC=C2)C(F)(F)F)F)C=CC1Cl | C14H7BrClF4NO
